US08790621B2
4-(Dodecyloxy)benzyl Alcohol.
A solution of 4-(dodecyloxy)-benzaldehyde (10 g, 35 mmol) in THF (80 mL) was added dropwise to a stirred suspension of NaBH4 (2.7 g, 70 mmol) in dry THF (70 mL) at 0° C. The reaction mixture was stirred at room temperature overnight and was quenched with a small amount of water (5 mL). The solid formed was removed by filtration and the filtrate was concentrated in vacuo. The residue was dissolved in CHCl3 (50 mL). The resulting solution was washed with brine (3×20 mL), dried over anhydrous Na2SO4, and concentrated in vacuo to give a white powder (9.56 g, 94%). 1H NMR (400 MHz, CDCl3, δ): 7.29 (d, J=8.4 Hz, 2H), 6.90 (d, J=8.8 Hz, 2H), 4.62 (d, J=6.0 Hz, 2H), 3.97 (t, J=6.8 Hz, 2H), 1.79-1.51 (m, 2H), 1.51-1.26 (m, 19H), 0.90 (t, J=6.4 Hz, 3H).

reactant | 4-(dodecyloxy)-benzaldehyde | 35 mmol, 10 g | C(CCCCCCCCCCC)OC1=CC=C(C=O)C=C1 | C19H30O2
reactant | NaBH4 | 70 mmol, 2.7 g | [BH4-].[Na+]
solvent | THF | 80 mL | C1CCOC1 | C4H8O
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 4-(Dodecyloxy)benzyl Alcohol | 9.56 g, 94% | C(CCCCCCCCCCC)OC1=CC=C(CO)C=C1 | C19H32O2
